US05922871
1-[N-[(1S)-1-(Cyclohexylmethyl)-2-hydroxyethyl]carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene
4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid (1.5 g) was dissolved in methylene chloride (60 ml) and then, triethylamine (0.7 ml) was added and cooled. Pivaloyl chloride (0.58 ml) was added slowly to the solution at 0~5° C. and the mixture was stirred at SoC for 2 hours. And then triethylamine (1.7 ml) and (S)-(+)-2-amino-3-cyclohexyl-1-propanol hydrochloride (0.87 g) were added in order, the solution was stirred at 0° C. for 3 hours and heated slowly to 20° C. and stirred for 1 hour. The reaction mixture was washed with water twice and the solvent was concentrated under reduced pressure. The concentrated residue was recrystallized using isopropanol and ether. The recrystallized product was filtered and dried to give 2.07 g (yield: 80%) of the desired compound. m.p.: 139~140° C.; 1H-NMR(CDCl3), ppm: δ 0.89~1.01(m, 2H), 1.22(m, 9H), 1.34(m, 1H), 1.45(m, 2H), 1.71(m, 4H), 1.81(m, 1H), 3.10(m, 4H), 3.51(m, 3H), 3.61(m, 1H), 3.76(m, 1H), 3.89(m, 2H), 4.13(m, 1H), 4.26(m, 1H), 6.59(m, 1H), 6.83(m, 1H), 6.95(m, 1H), 7.40(m, 2H), 7.67(m, 1H), 7.77(m, 2H)

reactant | 4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid | 1.5 g | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C(=O)O)C=C1 | C20H24N4O3
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | Pivaloyl chloride | 0.58 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | (S)-(+)-2-amino-3-cyclohexyl-1-propanol hydrochloride | 0.87 g | Cl.N[C@H](CO)CC1CCCCC1
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 1-[N-[(1S)-1-(Cyclohexylmethyl)-2-hydroxyethyl]carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene | 2.07 g, yield: 80% | C1(CCCCC1)C[C@@H](CO)NC(=O)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C | C29H41N5O3
